US06743794B2
[3-(2-Chloro-6-fluorophenyl)-5-methylisoxazol-4-yl]-N-[3-(2-oxo-3-phenylpropyl)cyclohexyl]carboxamide
A compound from preparation 88 (3.0 g; 9.05 mmol) was dissolved in excess, neat acetic acid saturated with HCl(g) (20 mL). After 30 min of stirring at room temperature, in air, the solution was concentrated to dryness by rotary evaporation. Acetic acid was removed from the resultant solid by consecutive dissolution in, and drying from, acetonitrile (thrice) and then diethyl ether (once). The resulting white powder was dissolved in anhydrous dichloromethane (400 mL) under a nitrogen atmosphere. First was added 3-(2-chloro-6-fluoro-phenyl)-5-methylisoxazole-4-carbonyl chloride (2.74 g; 9.99 mmol; 1.1 equiv), and then 4-N,N-dimethylaminopyridine (114 mg; 0.93 mmol; 0.1 equiv) and finally triethylamine (5 mL; 36.3 mmol; 4 equiv). The reaction solution was stirred 17 h and then quenched with saturated NaHCO3(aq). The organic layer was washed with saturated NaHCO3(aq) (twice), saturated NaCl(aq) (once), dried with Na2SO4(s), filtered, and concentrated to dryness by rotary evaporation. The resulting oil was dissolved in dichloromethane and purified by column chromatography on a 6×15 cm silica gel bed in dichloromethane. Dichloromethane (1 L) was followed by a 2% tetrahydrofuran/dichloromethane (v/v) mobile phase. A white solid (3.93 g; 95%) was obtained. TOF-MS(ES) calc'd: [M+H]+=469.1694 m/z. Found: 469.1692 m/z.

reactant | HCl | 20 mL | Cl | ClH
reactant | 3-(2-chloro-6-fluoro-phenyl)-5-methylisoxazole-4-carbonyl chloride | 9.99 mmol, 2.74 g, 1.1 equiv | ClC1=C(C(=CC=C1)F)C1=NOC(=C1C(=O)Cl)C | C11H6Cl2FNO2
reactant | triethylamine | 36.3 mmol, 5 mL, 4 equiv | C(C)N(CC)CC | C6H15N
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | [3-(2-Chloro-6-fluorophenyl)-5-methylisoxazol-4-yl]-N-[3-(2-oxo-3-phenylpropyl)cyclohexyl]carboxamide | ClC1=C(C(=CC=C1)F)C1=NOC(=C1C(=O)NC1CC(CCC1)CC(CC1=CC=CC=C1)=O)C | C26H26ClFN2O3
